US09403810B2
Step 5: [1,4,10-Trioxadispiro[4.2.4.2]tetradecan-9-ol]
1,4,10-Trioxadispiro[4.2.4.2]tetradecan-9-one (880 mg, 4.15 mmol) in toluene (30 mL), under nitrogen, was cooled to −78° C. and treated with 1M DIBAL-H (1M in toluene) (4.56 mL, 4.56 mmol). The reaction mixture was stirred at −78° C. for 2 hours. The resulting mixture was treated with 10% aqueous acetic acid solution (18 mL)/ice 60 g) and stirred for 5 mins with chloroform (150 mL). The aqueous was separated and extracted with chloroform (×3) and the combined organic extracts were dried over MgSO4 and filtered. The solvent was removed under reduced pressure to afford the title compound;

reactant | 1,4,10-Trioxadispiro[4.2.4.2]tetradecan-9-one | 4.15 mmol, 880 mg | O1CCOC12CCC1(C(OCC1)=O)CC2 | C11H16O4
reactant | DIBAL-H | 4.56 mmol, 1M, 4.56 mL | CC(C)C[AlH]CC(C)C
reactant | acetic acid | 18 mL | C(C)(=O)O | C2H4O2
reactant | chloroform | 150 mL | C(Cl)(Cl)Cl | CHCl3
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 1,4,10-Trioxadispiro[4.2.4.2]tetradecan-9-ol | O1CCOC12CCC1(C(OCC1)O)CC2 | C11H18O4
